US05262427
8-Ethoxycarbonyl-2-(5-phenyl-3-isoxazolyl)-8-azabicyclo[3.2.1]oct-2-ene
1.3 g (3.6 mmol) 8-ethoxycarbonyl-3-chloro-2-(5-phenyl-3-isoxazolyl)-8-azabicyclo[3.2.1]oct-2-ene was dissolved in 30 ml ethanol. 300 mg Pd/C 5%, triethylamine (7 ml) and formic acid (3 ml) was added and the reaction mixture heated at reflux for 4 h. The mixture was concentrated in vacuo, water (50 ml) was added and the solution extracted with ethylether 3×20 ml. The organic phase was dried over magnesiumsulphate and concentrated in vacuo. The crude product was purified by column chromatography with methylenchloride/ethylacetate (9:1) as eluent. Yield 600 mg oil.

reactant | 8-ethoxycarbonyl-3-chloro-2-(5-phenyl-3-isoxazolyl)-8-azabicyclo[3.2.1]oct-2-ene | 3.6 mmol, 1.3 g | C(C)OC(=O)N1C2C(=C(CC1CC2)Cl)C2=NOC(=C2)C2=CC=CC=C2 | C19H19ClN2O3
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 3 ml | C(=O)O | CH2O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 8-Ethoxycarbonyl-2-(5-phenyl-3-isoxazolyl)-8-azabicyclo[3.2.1]oct-2-ene | C(C)OC(=O)N1C2C(=CCC1CC2)C2=NOC(=C2)C2=CC=CC=C2 | C19H20N2O3
